US09029400B2
3-Cyclopropyl-2H-isoxazol-5-one
A solution of methyl 3-cyclopropyl-3-oxopropionate (4.8 g, 34 mmol) in methanol (80 mL) is mixed with hydroxylamine hydrochloride (2.6 g, 38 mmol) and triethylamine (5.3 mL, 38 mmol), and the mixture is heated under reflux for 2 h. The solvent is distilled out in vacuo. The residue is taken up in EtOAc and filtered through silica gel.

reactant | methyl 3-cyclopropyl-3-oxopropionate | 34 mmol, 4.8 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | hydroxylamine hydrochloride | 38 mmol, 2.6 g | Cl.NO
reactant | triethylamine | 38 mmol, 5.3 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 80 mL | CO | CH4O
product | 3-Cyclopropyl-2H-isoxazol-5-one | C1(CC1)C=1NOC(C1)=O | C6H7NO2
